US05529997
Scheme F, Step c: [S-(R*,R*)]-N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-1,2,3,4-tetrahydro-2-pyridinecarboxylic Acid, Methyl Ester
Transfer the solution of [2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-6-oxo-(S)-norleucine, methyl ester in methylene chloride (volume about 4.5 L) to a 12-liter flask and place under nitrogen atmosphere. Stir and add trifluoroacetic acid (440 mL, 5.71 mole) in one portion. Stir the resulting mixture at room temperature for one hour, then rapidly cool to about 0° C. Add a solution of sodium hydroxide (240 g, 6.0 mole) in water (3.4 L) in a slow stream to the vigorously stirred mixture at such a rate that the pot temperature stays at about 0° C. Separate the organic phase and extract the aqueous phase with methylene chloride (1 L). Combine the organic phases and dry (MgSO4). Filter and remove the solvent in vacuo to leave a residue (262 g, 137%).

reactant | [2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-6-oxo-(S)-norleucine, methyl ester | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N[C@@H](CCCC=O)C(=O)OC)CC1=CC=CC=C1 | C24H24N2O6
reactant | trifluoroacetic acid | 5.71 mole, 440 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 6.0 mole, 240 g | [OH-].[Na+]
solvent | methylene chloride | about 4.5 L | C(Cl)Cl | CH2Cl2
solvent | water | 3.4 L | O | H2O
product | N-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]-1,2,3,4-tetrahydro-2-pyridinecarboxylic Acid, Methyl Ester | 262 g, 137% | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)N1C(CCC=C1)C(=O)OC)CC1=CC=CC=C1 | C24H22N2O5
